US09340556B2
To a solution of (S)-4-tert-butyl 1-(4-methoxybenzyl) 2-(((Z)-(2-(((5R,6R,7R)-2-((benzhydryloxy)carbonyl)-3-(chloromethyl)-5-oxido-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-en-7-yl)amino)-1-(2-((tert-butoxycarbonyl)amino)-5-chlorothiazol-4-yl)-2-oxoethylidene)amino)oxy)succinate (27 g, 24.98 mmol) in Acetonitrile (300 mL) was added sodium iodide (5.62 g, 37.5 mmol). The mixture was stirred at room temperature over 1.5 h. LCMS indicated completion of the reaction. The solid was filtered off, the filtrate was concentrated under vacuum, and the residue was purified by CombiFlash Rf automated silica gel chromatography (330 g column), eluting with EtOAc/Hexanes (0-50%) to afford (S)-4-tert-butyl 1-(4-methoxybenzyl) 2-(((Z)-(2-(((5R,6R,7R)-2-((benzhydryloxy)carbonyl)-3-(iodomethyl)-5-oxido-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-en-7-yl)amino)-1-(2-((tert-butoxycarbonyl)amino)-5-chlorothiazol-4-yl)-2-oxoethylidene)amino)oxy)succinate (18 g, 14.97 mmol, 59.9% yield) as a red-brown solid. LCMS: (M+H)+: 1118.1

reactant | (S)-4-tert-butyl 1-(4-methoxybenzyl) 2-(((Z)-(2-(((5R,6R,7R)-2-((benzhydryloxy)carbonyl)-3-(chloromethyl)-5-oxido-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-en-7-yl)amino)-1-(2-((tert-butoxycarbonyl)amino)-5-chlorothiazol-4-yl)-2-oxoethylidene)amino)oxy)succinate | 24.98 mmol, 27 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C([C@H]([C@H]2[S@@](CC1CCl)=O)NC(\C(\C=1N=C(SC1Cl)NC(=O)OC(C)(C)C)=N/O[C@H](C(=O)OCC1=CC=C(C=C1)OC)CC(=O)OC(C)(C)C)=O)=O | C47H49Cl2N5O13S2
reactant | sodium iodide | 37.5 mmol, 5.62 g | [I-].[Na+]
solvent | Acetonitrile | 300 mL | C(C)#N | C2H3N
product | (S)-4-tert-butyl 1-(4-methoxybenzyl) 2-(((Z)-(2-(((5R,6R,7R)-2-((benzhydryloxy)carbonyl)-3-(iodomethyl)-5-oxido-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-en-7-yl)amino)-1-(2-((tert-butoxycarbonyl)amino)-5-chlorothiazol-4-yl)-2-oxoethylidene)amino)oxy)succinate | 14.97 mmol, 18 g, 59.9% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C([C@H]([C@H]2[S@@](CC1CI)=O)NC(\C(\C=1N=C(SC1Cl)NC(=O)OC(C)(C)C)=N/O[C@H](C(=O)OCC1=CC=C(C=C1)OC)CC(=O)OC(C)(C)C)=O)=O | C47H49ClIN5O13S2
